US07148226B2
6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyl-3-[(1-methyl-1H-imidazol-2-yl)methyl]dihydro-2H-pyran-2,4(3H)-dione
The title compound was prepared analogously to Example B(31), where 1-methyl-1H-imidazole-2-carbaldehyde was substituted in place of 5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde and 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione was substituted in place of 6-[2-(3-chloro-4-isopropoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione in that example.

reactant | 1-methyl-1H-imidazole-2-carbaldehyde | CN1C(=NC=C1)C=O | C5H6N2O
reactant | 5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
reactant | 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione | ClC=1C=C(C=CC1OC)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C19H23ClO4
reactant | 6-[2-(3-chloro-4-isopropoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione | ClC=1C=C(C=CC1OC(C)C)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C21H27ClO4
product | 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyl-3-[(1-methyl-1H-imidazol-2-yl)methyl]dihydro-2H-pyran-2,4(3H)-dione | ClC=1C=C(C=CC1OC)CCC1(CC(C(C(O1)=O)CC=1N(C=CN1)C)=O)C1CCCC1 | C24H29ClN2O4
